US06706663B2
Preparation of 1-Methyl-3-[3-(1-methylpyrrol-2-yl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil
To a mixture of 3-[3-(1-methylpyrrol-2-yl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil(1.35 g, 3.44 mmol), dry dimethylformamide and potassium carbonate (0.710 g, 5.14 mmol) is added iodomethane (0.730 g, 5.14 mmol). The resultant mixture is stirred overnight at room temperature and poured into ice water. Filtration and drying affords the title compound as a pink foam (0.300 g, 21.4%) which is identified by NMR spectral analysis.

reactant | 3-[3-(1-methylpyrrol-2-yl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil | 3.44 mmol, 1.35 g | CN1C(=CC=C1)C1=NSC2=C1C=C(C=C2)N2C(NC(=CC2=O)C(F)(F)F)=O | C17H11F3N4O2S
reactant | potassium carbonate | 5.14 mmol, 0.710 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 5.14 mmol, 0.730 g | IC | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Methyl-3-[3-(1-methylpyrrol-2-yl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil | 0.300 g, 21.4% | CN1C(=O)N(C(=O)C=C1C(F)(F)F)C=1C=CC2=C(C(=NS2)C=2N(C=CC2)C)C1 | C18H13F3N4O2S
